US03987053
EXAMPLE 53: 1-Methyl-2-nitro-5-imidazolecarboxaldehyde
To a solution of 3.15 g. of 1-methyl-2-nitro-5-(1,2-dihydroxyethyl)imidazole in 200 ml. of methanol, a solution of 3.6 g. of NaIO4 in 85 ml. of water is added with stirring. The precipitate which forms is filtered off and washed with methanol which is then added to the filtrate. By evaporation to dryness under vacuum a residue is obtained which is extracted several times with ethyl acetate. After concentration of the collected extracts, a crystalline product is obtained, which after recrystallization from ethyl acetate melts at 114°-115° C. Yield 2.5 g. (96%).

reactant | 1-methyl-2-nitro-5-(1,2-dihydroxyethyl)imidazole | CN1C(=NC=C1C(CO)O)[N+](=O)[O-] | C6H9N3O4
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-Methyl-2-nitro-5-imidazolecarboxaldehyde | CN1C(=NC=C1C=O)[N+](=O)[O-] | C5H5N3O3
